* 150V to 220V SEPIC, 300W
* D=Vout/(Vin+Vout)=595m, t_on=5.95u
* L1 input, M1 grounds sw1, C1 coupling sw1<->sw2, L2 sw2->0, D1 sw2->out
Vin in 0 150
L1 in sw1 220u
M1 sw1 gate 0 0 NMOS W=1 L=1
C1 sw1 sw2 47u
L2 sw2 0 220u
D1 sw2 out DIODE
C2 out 0 470u
Rload out 0 161
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 5.95u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
